US05677431
N-(3-dihydroxyborylphenyl)succinamic acid (16.0 grams, 0.063 mole) is dissolved in dry DMF (80 ml). To the solution is added N,N-dicyclohexylcarbodiimide (14.3 grams, 0.069 mole) followed by N-hydroxysuccinimide (8.05 grams, 0.070 mole). The reaction is stirred overnight at room temperature. N,N-dicyclohexylurea is filtered from the solution, and the filtrate extracted with ethyl acetate (200 ml). The extract is washed with water (3×400 ml) and saturated NaCl (400 ml). The water wash was back-extracted with ethyl acetate (200 ml), the extracts combined, dried over anhydrous Na2SO4, and concentrated on a rotary evaporator to afford 12.5 grams (57% yield) of N-(3-dihydroxyboryl-phenyl)succinamic acid, succinimidyl ester. Purity estimated at 98% by TLC (CHCl3 /CH3OH/CH3COOH; 85:10:5), Rf =0.7. The structure was confirmed by 300 MHz, 1H NMR spectrometry in d6 -DMSO.

reactant | N-(3-dihydroxyborylphenyl)succinamic acid | 0.063 mole, 16.0 grams | OB(C=1C=C(C=CC1)NC(CCC(=O)O)=O)O | C10H12BNO5
reactant | N-hydroxysuccinimide | 0.070 mole, 8.05 grams | ON1C(CCC1=O)=O | C4H5NO3
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | N-(3-dihydroxyboryl-phenyl)succinamic acid, succinimidyl ester | 12.5 grams, 57% yield | OB(C=1C=C(C=CC1)NC(CCC(=O)ON1C(CCC1=O)=O)=O)O | C14H15BN2O7
